US06734186B1
Benzyl 3-(methylamino)-3-oxopropylcarbamate
A mixture of N-[(benzyloxy)carbonyl]-β-alanine (10 g, 44.8 mmol), methylamine hydrochloride (3.33 g, 49.28 mmol), 1-hydroxybenzotriazole hydrate (6.05 g, 44.8 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (10.3 g, 53.76 mmol) and N-methylmorpholine (11.33 ml, 103 mmol) in dichioromethane (200 ml) was stirred at room temperature for 18 hours. The resulting precipitate was filtered off to give the desired product as a colourless foam, and the filtrate evaporated under reduced pressure. The residue was purified by column chromatography on silica gel using an elution gradient of ethyl acetate:hexane (90:10 to 100:0) to give additional product, 7.96 g, 75% in total; 1H NMR (CDCl3, 300 MHz) δ: 2.42 (t, 2H), 2.80 (s, 3H), 3.50 (m, 2H), 5.21 (s, 2H), 5.49 (bs, 1H), 5.63 (bs, 1H), 7.36 (m, 5H); Anal. Found: C, 60.68; H, 7.00; N, 11 .95. C12H16N2O3 requires C, 61.00; H, 6.83; N, 11.86%.

reactant | N-[(benzyloxy)carbonyl]-β-alanine | 44.8 mmol, 10 g | C(C1=CC=CC=C1)OC(=O)NCCC(=O)O | C11H13NO4
reactant | methylamine hydrochloride | 49.28 mmol, 3.33 g | Cl.CN
reactant | 1-hydroxybenzotriazole hydrate | 44.8 mmol, 6.05 g | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 53.76 mmol, 10.3 g | Cl.CN(CCCN=C=NCC)C
reactant | N-methylmorpholine | 103 mmol, 11.33 ml | CN1CCOCC1 | C5H11NO
solvent | dichioromethane | 200 ml | ClCCl | CH2Cl2
product | Benzyl 3-(methylamino)-3-oxopropylcarbamate | CNC(CCNC(OCC1=CC=CC=C1)=O)=O | C12H16N2O3
